US09227978B2
4-Bromo-5-chloro-2-nitrobenzamide
A mixture of 4-bromo-5-chloro-2-nitrobenzoic acid (1.3 g, 4.63 mmol), Et3N (1.4 g, 13.9 mmol) in THF (20 mL) at 0° C., ethyl chloroformate (1.5 g, 13.9 mmol) was added. The resulting mixture was stirred at 0° C. for 1 h. Then NH3.H2O (4 mL) was added and stirred for 0.5 h. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to afford the crude product (900 mg).

reactant | 4-bromo-5-chloro-2-nitrobenzoic acid | 4.63 mmol, 1.3 g | BrC1=CC(=C(C(=O)O)C=C1Cl)[N+](=O)[O-] | C7H3BrClNO4
reactant | Et3N | 13.9 mmol, 1.4 g | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 13.9 mmol, 1.5 g | ClC(=O)OCC | C3H5ClO2
reactant | NH3.H2O | 4 mL | N.O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Bromo-5-chloro-2-nitrobenzamide | 900 mg | BrC1=CC(=C(C(=O)N)C=C1Cl)[N+](=O)[O-] | C7H4BrClN2O3
